US07652049B2
To a solution of 1,3-thiazol-4-ylmethanol (311.4 mg, 2.7 mmol) in CH2Cl2 (15 mL) was added Et3N (1.9 mL, 13.6 mmol). The solution was cooled to −78° C. and TBSOTf (776 μL, 3.38 mmol) was added. The reaction was warmed to room temperature and stirred for 1 hour. Next, the reaction was diluted with EtOAc (75 mL) and washed with saturated NaHCO3, brine, 1N HCl, and brine (20 mL each). The organic layer was dried over Na2SO4, filtered, and concentrated. The residue was purified by flash chromatography on silica gel (0 to 15% EtOAc/hexanes) to afford 4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-1,3-thiazole. Rf=0.28 (15% EtOAc/hexanes). LCMS=230.1 (M+1)+. 1H NMR (CDCl3, 600 MHz) δ 8.77 (d, J=2.0 Hz, 1H), 7.25 (m, 1H), 4.93 (d, J=1.1 Hz, 2H), 0.95 (s, 9H), 0.12 (s, 6H).

reactant | 1,3-thiazol-4-ylmethanol | 2.7 mmol, 311.4 mg | S1C=NC(=C1)CO | C4H5NOS
reactant | Et3N | 13.6 mmol, 1.9 mL | CCN(CC)CC | C6H15N
reactant | TBSOTf | 3.38 mmol, 776 μL | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 75 mL | CCOC(=O)C | C4H8O2
product | 4-({[tert-butyl(dimethyl)silyl]oxy}methyl)-1,3-thiazole | [Si](C)(C)(C(C)(C)C)OCC=1N=CSC1 | C10H19NOSSi
